US05326766
8-Fluoro-4-(2-(4-(6-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethylamino)quinoline (Compound 40)
A mixture of 4-chloro-8-fluoroquinoline (1.81 g, 0.01 mol), and 2-(4-(6-trifluoromethyl-2-pyridinyloxy)-phenyl)ethylamine (2.82 g, 0.01 mol), triethylamine (1.1 g, 0.011 mol) was heated at 180°-190° C. for two hours and allowed to cool to a glass. Dichloromethane (50 mL) and concentrated ammonia solution (50 mL) were added, and the mixture was stirred until the glass dissolved. The organic phase was washed with 0.5M sodium hydroxide solution and water, and was dried over anhydrous sodium sulphate. Evaporation of the solvent under reduced pressure and recrystallization from ethyl acetate:hexane gave 2.5 g of product. MP 157° C.

reactant | 4-chloro-8-fluoroquinoline | 0.01 mol, 1.81 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | 2-(4-(6-trifluoromethyl-2-pyridinyloxy)-phenyl)ethylamine | 0.01 mol, 2.82 g | FC(C1=CC=CC(=N1)OC1=CC=C(C=C1)CCN)(F)F | C14H13F3N2O
reactant | triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | 50 mL | N | H3N
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 8-Fluoro-4-(2-(4-(6-(trifluoromethyl)-2-pyridinyloxy)phenyl)ethylamino)quinoline | 2.5 g | FC=1C=CC=C2C(=CC=NC12)NCCC1=CC=C(C=C1)OC1=NC(=CC=C1)C(F)(F)F | C23H17F4N3O
